US05358950
4.6 g of 7-n-propyl-5-methyl-8-(4-aminobenzyl)-1,2,4-triazolo[4,3-c]pyrimidin-3(2H)-one, prepared in Example 30, are dissolved in 300 ml of acetonitrile, and a solution of 2.9 g of sulphobenzoic anhydride in 30 ml of acetonitrile is added. The mixture is stirred for 15 minutes and the crystals formed are drained and washed with ether, then dissolved in aqueous sodium bicarbonate solution. The aqueous phase is then acidified by bubbling sulphur dioxide in to give 4 g of 2-[{4-[(7-n-propyl-5-methyl-3-oxo-2,3-dihydro-1,2,4-triazolo[4,3-c]pyrimidin-yl)methyl]phenyl}aminocarbonyl]benzenesulphonic acid in the form of crystals of melting point 283°-286° C.

reactant | 7-n-propyl-5-methyl-8-(4-aminobenzyl)-1,2,4-triazolo[4,3-c]pyrimidin-3(2H)-one | 4.6 g | C(CC)C1=C(C=2N(C(=N1)C)C(NN2)=O)CC2=CC=C(C=C2)N | C16H19N5O
reactant | sulphobenzoic anhydride | 2.9 g | S(=O)(=O)(O)C1=C(C(=O)OC(C2=C(C=CC=C2)S(=O)(=O)O)=O)C=CC=C1 | C14H10O9S2
reactant | acetonitrile | 300 ml | C(C)#N | C2H3N
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-[{4-[(7-n-propyl-5-methyl-3-oxo-2,3-dihydro-1,2,4-triazolo[4,3-c]pyrimidin-yl)methyl]phenyl}aminocarbonyl]benzenesulphonic acid | 4 g | C(CC)C1=CC=2N(C(=N1)C)C(N(N2)CC2=CC=C(C=C2)NC(=O)C2=C(C=CC=C2)S(=O)(=O)O)=O | C23H23N5O5S
